US03958012
To a mixture of 1.6 g. of 2-methoxynaphthalene, 1.6 g. of acetyl chloride, and 20 ml. of nitrobenzene, there are added 4.0 g. of aluminum chloride. The resulting mixture is stirred for 48 hours at 25°C; then it is washed with water until free of chloride ion. The mixture is dried over sodium sulfate and evaporated under reduced pressure. The residue, 2-acetyl-6-methoxynaphthalene, is refluxed in 2 ml. of morpholine containing one-half gram of sulfur for 2 hours; the reaction mixture is then filtered and evaporated. The resulting reaction derivative is extracted with diethyl ether; the extracts are combined and evaporated. The residue is refluxed in 10 ml. of concentrated hydrochloric acid for 2 hours, cooled to 25°C, and neutralized with aqueous sodium hydroxide. The mixture is then extracted with ether and the extracts are combined, washed with water to neutrality, dried and evaporated to yield 2-(6-methoxy-2-naphthyl)acetic acid.

reactant | 2-methoxynaphthalene | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-(6-methoxy-2-naphthyl)acetic acid | COC=1C=C2C=CC(=CC2=CC1)CC(=O)O | C13H12O3
